US08669254B2
5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-N-{3,3,3-trifluoro-2-[(Z)-methoxyimino]-propyl}-nicotinamide
To a solution of 0.241 g 5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-N-(3,3,3-trifluoro-2-oxo-propyl)-nicotinamide in ethanol was added 0.051 g O-methylhydroxylamine hydrochloride and the mixture was kept at ambient temperature for 18 h. The mixture was then heated to reflux for 4 h. The clear reaction mixture was diluted with ca 2 ml water and concentrated under aspirator vacuum whereby crystallisation occurred. The product was collected by filtration and washed with water and dried to constant weight under high vacuum to yield 0.23 g of the title compound as white crystals melting at 124-126° C. MS (EI): 502.1 (M−H).

reactant | 5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-N-(3,3,3-trifluoro-2-oxo-propyl)-nicotinamide | 0.241 g | ClC=1C=C(C=CC1Cl)C=1C(=NC=C(C(=O)NCC(C(F)(F)F)=O)C1)OCC(F)(F)F | C17H10Cl2F6N2O3
reactant | O-methylhydroxylamine hydrochloride | 0.051 g | Cl.CON
solvent | ethanol | C(C)O | C2H6O
solvent | water | ca 2 ml | O | H2O
product | 5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-N-{3,3,3-trifluoro-2-[(Z)-methoxyimino]-propyl}-nicotinamide | 0.23 g | ClC=1C=C(C=CC1Cl)C=1C(=NC=C(C(=O)NC/C(/C(F)(F)F)=N/OC)C1)OCC(F)(F)F | C18H13Cl2F6N3O3
